US05523475
6-Fluoro-3-methoxybenzoic acid
4-Fluoro-3-methylanisol (1.0 g, 7.1 mmol) was dissolved in a mixture of pyridine (16 mL) and water (32 mL). Potassium permanganate (3.4 g, 21 mmol) was added and the reaction mixture was refluxed for 3 h and then left at room temperature over night. After filtration and extraction with CH2Cl2 the aqueous phase was acidified with HCl precipitating the product (440 mg).

reactant | 4-Fluoro-3-methylanisol | 7.1 mmol, 1.0 g | FC1=C(C=C(C=C1)OC)C | C8H9FO
reactant | Potassium permanganate | 21 mmol, 3.4 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 32 mL | O | H2O
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 6-Fluoro-3-methoxybenzoic acid | FC1=CC=C(C=C1C(=O)O)OC | C8H7FO3
